US07838543B2
Rac-2′,4′-Dichloro-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-amide
Combine rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine (0.040 g, 0.154 mmol), 2′,4′-dichloro-biphenyl-4-carboxylic acid (0.062 g, 0.230 mmol), HATU (0.058 g, 0.154 mmol), polystyrene-bound diisopropylamine (0.385 g, loading: 2.0 to 3.5 mmol/g), and CH2Cl2 (10 mL). Shake the mixture overnight at room temperature. Filter the mixture and wash the polystyrene resin with 1:1 CH2Cl2/MeOH. Subject the mixture to flash column chromatography on an ISCO Companion (12 g column, eluting with 10% 2M NH3 in MeOH/CH2Cl2) to yield a colorless oil (0.036 g). Dissolve the oil in CH2Cl2, wash with 1.0M NaOH (3×25 mL), dry over Na2SO4, filter, concentrate in vacuo, and pump overnight on high vacuum to yield the desired product (0.031 g, 40%). mass spectrum (m/e): 509.0 (M+1), 507.0 (M−1). 1H NMR (400 MHz, DMSO-d6) δ 10.28 (s, 1H), 8.03 (d, J=8.8 Hz, 2H), 7.80-7.78 (m, 1H), 7.73-7.71 (m, 1H), 7.61-7.48 (m, 4H), 7.40-7.33 (m, 2H), 3.50 (d, J=8.0 Hz, 1H), 3.13 (s, 3H), 2.65-2.55 (m, 1H), 2.44-2.34 (m, 2H), 2.28-2.21 (m, 1H), 2.23 (s, 3H), 1.93-1.83 (m, 2H), 1.49-1.39 (m, 2H).

reactant | rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 0.154 mmol, 0.040 g | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
reactant | 2′,4′-dichloro-biphenyl-4-carboxylic acid | 0.230 mmol, 0.062 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(=O)O | C13H8Cl2O2
reactant | HATU | 0.154 mmol, 0.058 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Rac-2′,4′-Dichloro-biphenyl-4-carboxylic acid {2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-amide | 0.036 g | CN(C=1OC2=C(N1)C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)CC2CN(CC2)C | C27H26Cl2N4O2
